US08686135B2
1-Ethyl-7-(2-methyl-6-(4H-1,2,4-triazol-3-yl)pyridin-3-yl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one. (Alternate approach). Ethyl 2-(3,5-dibromopyrazin-2-ylamino)acetate (1 equiv), tetrahydrofuran and sodium hydroxide in water (1.1 equiv) were combined and stirred at room temperature overnight. The reaction mixture was filtered and the collected solids were dried to give sodium 2-(3,5-dibromopyrazin-2-ylamino)acetate as an off-white solid. Sodium 2-(3,5-dibromopyrazin-2-ylamino)acetate and ethylamine (3 equiv, 70 wt % solution) were combined in water and the mixture was stirred at 90° C. overnight. The reaction mixture was cooled to 80° C., treated with phosphoric acid (10 equiv), and stirred for 3 h. The mixture was cooled to room temperature and the solids were collected by filtration. The product was dried to obtain 7-bromo-1-ethyl-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one as a grey solid. 7-Bromo-1-ethyl-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one (1 equiv), bispinacoldiborane (1.5 equiv), and potassium acetate (3.2 equiv) were combined in tetrahydrofuran. The reaction was heated to reflux and PdCl2(AmPhos)2 (0.002 equiv) was added. After 4 h, the reaction was cooled to room temperature. The mixture was filtered and the collected solids were washed with tetrahydrofuran. The filtrate was concentrated under reduced pressure to 50% of the original volume and hexanes was added. The resulting solids were collected by filtration and dried to obtain 1-ethyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one as a tan solid. 1-Ethyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one (1 equiv) and 3-bromo -2-methyl-6-(1-(tetrahydro-2H-pyran-2-yl)-1H-1,2,4-triazol-3-yl)pyridine (0.96 eqiv), were combined in tetrahydrofuran. A solution of potassium carbonate (2 equiv) in water, was added to the flask with stirring. The solution was treated with PdCl2(AmPhos)2 (0.002 equiv) and heated to 65° C. for 1 h. The solution was treated with MTBE and seeded. Additional MTBE and seed were added before adding a final portion of MTBE to the reaction mixture. The solids were collected by filtration and dried to obtain the desired intermediate as a tan solid. This intermediate and reagent alcohol (95% ethanol and 5% isopropanol) were combined and the mixture was treated with concentrated aqueous hydrogen chloride and heated to 60° C. A second charge of concentrated aqueous hydrogen chloride was made and the material was heated for 2 h. The reaction mixture was cooled to room temperature and filtered. The solids were washed with IPA and dried to obtain 1-ethyl-7-(2-methyl-6-(4H-1,2,4-triazol-3-yl)pyridin-3-yl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one hydrochloride as a pale yellow solid. The salt was dissolved in water and tetrahydrofuran and treated with a metal scavenger (SiliaBond® Thiol) (10 wt %) overnight. The slurry was filtered and the solids rinsed with 1:1 tetrahydrofuran/water. The filtrate was treated with aqueous ammonium hydroxide solution concentrated under reduced pressure to 70% of its volume. The solution was cooled to room temperature and the resulting solids were filtered and washed with water and ethanol. The dried solids were transferred to a flask, treated with ethanol, and heated to 65° C. for 2 h. The mixture was cooled to room temperature and held overnight. The solids were collected by vacuum filtration and dried to obtain 1-ethyl-7-(2-methyl-6-(4H-1,2,4-triazol-3-yl)pyridin-3-yl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one as an off-white solid.

reactant | Sodium 2-(3,5-dibromopyrazin-2-ylamino)acetate | BrC=1C(=NC=C(N1)Br)NCC(=O)[O-].[Na+]
reactant | ethylamine | 3 equiv | C(C)N | C2H7N
reactant | phosphoric acid | 10 equiv | P(O)(O)(O)=O | H3O4P
solvent | water | O | H2O
product | 7-bromo-1-ethyl-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | BrC1=CN=C2C(=N1)N(C(CN2)=O)CC | C8H9BrN4O
